**********************************
**********************************
**
** Any relay
** 1 channel(COM, NC and NO), bipolar coil
** EC103xx-SxSx
**
** T. Chenoski
** Irving Technical Center
**
** Created 04/08/23
**
**********************************
**********************************
.SUBCKT G5V1    NC1 PIN2 com1 PIN9 NO1
L1 PIN9 N005 0.015
R1 N005 PIN2 960
SWNO NO1 com1 N003 N002 SWNO
D1 N002 N001 D
D2 N002 N004 D
D3 N004 N003 D
D4 N001 N003 D
R2 N004 PIN2 16k
SWNC NC1 com1 N003 N002 SWNC
R3 PIN9 N001 16k
.model D D
.lib C:\Users\Wilhelm\AppData\Local\LTspice\lib\cmp\standard.dio
.model SWNO SW Ron=0.02 Roff=2Meg Vt=7 Vh=1
.model SWNC SW Ron=2Meg Roff=0.02 Vt=7 Vh=1
.backanno
.ends