**********************************
**********************************
**
** Simple Relay model
** 1 channel(COM, NC and NO), bipolar coil
** Basic model for G5V-1
**
** Wilhelm Winterstein
**
** Created 20230408
**
**********************************
**********************************
.SUBCKT G5V1    NC1 PIN2 PIN3 PIN4 PIN5 PIN6 PIN7 PIN8 PIN9 NO1
L1 N004 N006 0.015
R1 N006 PIN2 480
SWNO1 NO1 N007 N005 N004 SWNO
D3 N008 N005 D
D4 N001 N005 D
R2 PIN2 N008 16k
SWNC1 NC1 N007 N005 N004 SWNC
R3 PIN9 N001 16k
D5 PIN4 N003 D
D6 PIN8 N003 D
R4 N007 PIN5 5m
R5 N007 PIN6 5m
D7 PIN3 N002 D
D8 PIN7 N002 D
R6 PIN9 N004 480
.model D D
.model SWNO SW Ron=0.02 Roff=2Meg Vt=4.9 Vh=0.1
.model SWNC SW Ron=2Meg Roff=0.02 Vt=4.7 Vh=0.1
.backanno
.ends